US06787653B2
To a solution of 78.0 mg (0.1 mmol) of 1,3-bis[4-[4-(4-acetyl-3,5-dimethoxyphenyl) benzoyl]-1-piperazinyl]propane in chloroform (3.0 mL) was added 0.063 mL (0.25 mmol) of a 4.0 mol/L ethyl acetate solution of hydrogen chloride, and the mixture was concentrated under reduced pressure. The residue was crystallized from chloroform-diethyl ether to afford 40.0 mg of 1,3-bis[4-[4-(4-acetyl-3,5-dimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride as a pale brown crystalline powder (yield: 47%). mp: 240.0° C. (decomposed)

reactant | 1,3-bis[4-[4-(4-acetyl-3,5-dimethoxyphenyl) benzoyl]-1-piperazinyl]propane | 0.1 mmol, 78.0 mg | C(C)(=O)C1=C(C=C(C=C1OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)C(C)=O)OC)=O)C=C1)OC | C45H52N4O8
reactant | ethyl acetate | 4.0 mol/L | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 3.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,3-bis[4-[4-(4-acetyl-3,5-dimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride | 40.0 mg, yield: 47% | Cl.Cl.C(C)(=O)C1=C(C=C(C=C1OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)C(C)=O)OC)=O)C=C1)OC | InChI=1S/C45H52N4O8.2ClH/c1-30(50)42-38(54-3)26-36(27-39(42)55-4)32-8-12-34(13-9-32)44(52)48-22-18-46(19-23-48)16-7-17-47-20-24-49(25-21-47)45(53)35-14-10-33(11-15-35)37-28-40(56-5)43(31(2)51)41(29-37)57-6;;/h8-15,26-29H,7,16-25H2,1-6H3;2*1H
